US07915261B2
4 M hydrogen chloride/EtOAc solution (5 ml) was added to an EtOAc (15 ml) solution of the crude tert-butyl 4-[2-(3-{[(2-bromoethyl)amino]carbonyl}phenyl)ethyl]piperidine-1-carboxylate at room temperature, followed by stirring overnight. The solvent was evaporated under reduced pressure to obtain N-(2-bromoethyl)-3-(2-piperidin-4-ylethyl)benzamide hydrochloride (1.27 g) as a white solid.

reactant | hydrogen chloride EtOAc | 4 M, 5 ml | Cl.CCOC(=O)C
reactant | tert-butyl 4-[2-(3-{[(2-bromoethyl)amino]carbonyl}phenyl)ethyl]piperidine-1-carboxylate | BrCCNC(=O)C=1C=C(C=CC1)CCC1CCN(CC1)C(=O)OC(C)(C)C | C21H31BrN2O3
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
product | N-(2-bromoethyl)-3-(2-piperidin-4-ylethyl)benzamide hydrochloride | 1.27 g | Cl.BrCCNC(C1=CC(=CC=C1)CCC1CCNCC1)=O | InChI=1S/C16H23BrN2O.ClH/c17-8-11-19-16(20)15-3-1-2-14(12-15)5-4-13-6-9-18-10-7-13;/h1-3,12-13,18H,4-11H2,(H,19,20);1H
